US07563815B2
Step A. N-Methyl-4-methoxy-2-nitroaniline
To 4-methoxy-2-nitroaniline (10 mmol, 1.68 g) in 20 mL of DMF was added NaH (12 mmol, 480 mg of a 60% dispersion in mineral oil) (exothermic, H2 evolution), affording a deep red slurry. After 15 min MeI (20 mmol, 1.2 mL) was added (exothermic). After 30 min the reaction was poured into a solution of brine and NaHCO3, resulting in formation of a bright orange precipitate. The slurry was filtered and the filter cake was washed with H2O. The solid was dried under reduced pressure, affording a bright orange solid. HPLC A: 1.77 min.

reactant | 4-methoxy-2-nitroaniline | 10 mmol, 1.68 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | NaH | [H-].[Na+]
reactant | MeI | 20 mmol, 1.2 mL | CI | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-Methyl-4-methoxy-2-nitroaniline | CNC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C8H10N2O3
